data/rdb19/train.csv
rxn,smiles,ea
4508,[C:13]([C:14]([C:15]([H:16])[H:17])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])([H:22])([H:23])[H:24].[C:1]([H:7])([H:8])([H:9])[H:25].[C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12],87.48932699859142
3665,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:22]([C:21]([C:19]([O:18][C:17]([H:24])([H:25])[H:26])=[O:20])[C:23]([H:29])([H:30])[H:31])([H:27])[H:28])([H:10])[H:11])([H:7])([H:8])[H:9],12.203983838960994
5044,[C:11]([C:12]([C:13]([H:14])[H:15])([O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])[H:23])([H:20])([H:21])[H:22].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:3](=[C:4][H:10])[H:8])([H:5])([H:6])[H:7].[H:9][C:13]([C:12]([C:11]([H:20])([H:21])[H:22])([O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])[H:23])([H:14])[H:15],26.377499026653823
1831,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:15]([H:25])([H:26])[H:27])([H:11])[H:12])([H:8])([H:9])[H:10],59.67433261865517
3672,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:11][C:21]([C:19]([O:18][C:17]([H:24])([H:25])[H:26])=[O:20])([C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31],34.40296728303656
2610,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])[H:29].[H:16][H:28],63.16137333435472
1609,[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29].[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][O:16][C:15]([H:22])([H:23])[H:24],48.526354281639215
4717,[C:1]([H:2])([H:3])[H:4].[C:5]([O:6][C:7](=[C:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([H:2])([H:3])([H:4])[H:12].[C:5]([O:6][C:7]=[C:8]([H:13])[H:14])([H:9])([H:10])[H:11],22.375302177591948
5212,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[N:29]([C:30](=[O:31])[H:38])[H:37])([H:35])[H:36])([H:32])([H:33])[H:34]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1=[C:6]([H:20])[C:7]([H:21])([H:37])[C:8]([H:22])[C:9]([H:23])=[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])=[N:29][C:30](=[O:31])[H:38])([H:35])[H:36])([H:32])([H:33])[H:34],45.55376850062749
822,[C:19]([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][C:19]([H:20])([H:21])[H:22],25.7630229027709
3452,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:10])([H:6])([H:7])[H:8].[H:9][C:22]([C:21]([C:19]([O:18][C:17]([H:24])([H:25])[H:26])=[O:20])[C:23]([H:29])([H:30])[H:31])([H:27])[H:28],26.29764741845429
